US04891366
(5α, 16β, 17α)-N,N-diethyl-17-hydroxy-N-methyl-androst-2-en-16-aminium 4-methylbenzenesulphonate.
1-[(2β, 3α, 5α, 16β, 17α)-2,3-epoxy-17-hydroxy-androstan16-yl]- 1-methylpyrrolidinium 4-methy)benzenesulphonate and

reactant | 1-[(2β, 3α, 5α, 16β, 17α)-2,3-epoxy-17-hydroxy-androstan16-yl]- 1-methylpyrrolidinium | O1[C@@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)[N+]2(CCCC2)C
reactant | benzenesulphonate | C1(=CC=CC=C1)S(=O)(=O)[O-]
product | (5α, 16β, 17α)-N,N-diethyl-17-hydroxy-N-methyl-androst-2-en-16-aminium 4-methylbenzenesulphonate | C(C)[N+]([C@@H]1[C@H]([C@]2(C)[C@@H](C1)[C@@H]1CC[C@H]3CC=CC[C@]3(C)[C@H]1CC2)O)(C)CC.CC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C24H42NO.C7H8O3S/c1-6-25(5,7-2)21-16-20-18-12-11-17-10-8-9-14-23(17,3)19(18)13-15-24(20,4)22(21)26;1-6-2-4-7(5-3-6)11(8,9)10/h8-9,17-22,26H,6-7,10-16H2,1-5H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1/t17-,18-,19+,20+,21+,22-,23+,24+;/m1./s1
